US07790884B2
Potassium carbonate (62 mg) and ethyl iodide (36 μl) were added in that order to an acetonitrile (5 mL) solution of N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide dihydrochloride (250 mg), followed by stirring at room temperature for 2 hours and at 50° C. for 19 hours. The solvent was evaporated, and a saturated sodium bicarbonate aqueous solution was added to the resulting residue, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. Then, the solvent was evaporated. By purifying the resulting residue by a silica gel column chromatography (chloroform-MeOH), N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-1-ethyl-N-methyl-L-prolinamide was obtained. This compound was dissolved in MeOH (3 mL), 4 M HCl/ethyl acetate solution (198 μl) was added thereto, and the solvent was evaporated. By recrystallizing the resulting crude crystals from isopropanol-diisopropyl ether, N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-1-ethyl-N-methyl-L-prolinamide dihydrochloride (101 mg) was obtained as pale yellow crystals.

reactant | Potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 36 μl | C(C)I | C2H5I
reactant | N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide dihydrochloride | 250 mg | Cl.Cl.ClC1=CC(=C(C=C1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N(C([C@H]1NCCC1)=O)C)F
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-1-ethyl-N-methyl-L-prolinamide | ClC1=CC(=C(C=C1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N(C([C@H]1N(CCC1)CC)=O)C)F | C29H36ClFN6O3
